US06133258
A mixture of 74 mg (0.23 mmol) of 2-[N-(4-chlorophenyl)-N-(4-oxo-4H-pyrido[3,2-e]-1,3-thiazin-2-yl]amino]acetonitrile and 1 ml of DMF was put in a 20 ml flask. To the mixture were then added 146 mg of sodium azide and 120 mg of ammonium chloride with stirring. The mixture was then stirred at a temperature of 120° C. for 4 hours. The resulting reaction mixture was allowed to cool, poured into water, and then extracted with ethyl acetate. The resulting organic phase was separated, washed with water and saturated brine, and then dried over sodium sulfate. The drying agent was then removed by filtration. The filtrate was then concentrated under reduced pressure. The resulting residue was then washed with cold ethanol to obtain 30 mg of 2-[N-(4-chlorophenyl)-N-(1H-tetrazol-5-ylmethyl)amino]-4H-pyrido[3,2-e]-1,3-thiazin-4-one.

reactant | 2-[N-(4-chlorophenyl)-N-(4-oxo-4H-pyrido[3,2-e]-1,3-thiazin-2-yl]amino]acetonitrile | 0.23 mmol, 74 mg | ClC1=CC=C(C=C1)N(C=1SC2=C(C(N1)=O)C=CC=N2)CC#N | C15H9ClN4OS
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
reactant | sodium azide | 146 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 120 mg | [Cl-].[NH4+]
solvent | water | O | H2O
product | 2-[N-(4-chlorophenyl)-N-(1H-tetrazol-5-ylmethyl)amino]-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 30 mg | ClC1=CC=C(C=C1)N(CC1=NN=NN1)C=1SC2=C(C(N1)=O)C=CC=N2 | C15H10ClN7OS
